US05646308
2,2-Bis(fluoromethyl)-2H-1-benzopyran-4-carboxylic acid ethyl ester:
Using 2,2-bis(fluoromethyl)-6-heptafluoropropyl-2H-1-benzopyran-4-carboxylic acid, an oily product of 2,2-bis(fluoromethyl)-6-heptafluoropropyl-N-methyl-2H-1-benzopyran-4-carboxamide as in Example 7 (3).

reactant | 2,2-bis(fluoromethyl)-6-heptafluoropropyl-2H-1-benzopyran-4-carboxylic acid | FCC1(OC2=C(C(=C1)C(=O)O)C=C(C=C2)C(C(C(F)(F)F)(F)F)(F)F)CF | C15H9F9O3
reactant | 2,2-bis(fluoromethyl)-6-heptafluoropropyl-N-methyl-2H-1-benzopyran-4-carboxamide | FCC1(OC2=C(C(=C1)C(=O)NC)C=C(C=C2)C(C(C(F)(F)F)(F)F)(F)F)CF | C16H12F9NO2
product | 2,2-Bis(fluoromethyl)-2H-1-benzopyran-4-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(OC2=C1C=CC=C2)(CF)CF | C14H14F2O3
